US04897470
Preparation of α-citromycinone:
The resulting broth (about 12 liters) was similarly subjected to acid hydrolysis, acetone extraction from the mycelia and chloroform extraction, and finally 9.8 g of a crude powder containing β-isorhodomycinone. The whole amount of the crude powder was dissolved in 100 ml of methanol and the insoluble materials were centrifuged off. After concentration, the soluble fraction was applied on a silica-gel column (diameter: 78 mm) packed with 300 g of the above-mentioned silica-gel C-200 in chloroform, and eluted with 500 ml of chloroform, 100 ml of a mixture solution of chloroform/methanol (500/1), 3400 ml of the mixture solution (400/1) and 1000 ml of the mixture solution (300/1) in this order. β-isorhodomycinone was eluted with a mixture of chloroform/methanol (400/1). The β-isorhodomycinone-containing fractions were collected and evaporated to dryness followed by washing with ether The yield of β-isorhodomycinone was 0.62 g. The identification of this compound was carried out by means of 1H--M=NMR and 13C--NMR spectra and UV and FD mass spectra thereof, referring chemical data described in the literature (Chem. Ber., Vol. 98, page 3145, 1965).

reactant | acetone | CC(=O)C | C3H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | β-isorhodomycinone | CC[C@]1(C[C@@H](C2=C(C3=C(C(=C2[C@H]1O)O)C(=O)C4=C(C=CC(=C4C3=O)O)O)O)O[C@H]5C[C@@H]([C@@H]([C@@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7CCC(=O)[C@@H](O7)C)O)N(C)C)O | C40H51NO16
solvent | methanol | 100 ml | CO | CH4O
product | α-citromycinone | CC[C@]1(C[C@@H](C2=C([C@H]1O)C(=C3C(=C2)C(=O)C4=C(C3=O)C=CC=C4O)O)O)O | C20H18O7
